* DLRTPD4 : abstract conversion of sky130_fd_sc_hd__dlrtp_4
* 48 abstract devices (width -> parallel min-width fingers)
.subckt DLRTPD4 D GATE RESET_B VGND VPWR Q
XDLRTPD4B D GATE RESET_B VGND VGND VPWR VPWR Q DLRTPD4B
.ends DLRTPD4

.subckt DLRTPD4B D GATE RESET_B VGND VNB VPB VPWR Q
X0 a_562_413# a_193_47# a_683_413# VPB abpmos
X1 a_683_413# a_725_21# VPWR VPB abpmos
X2 a_725_21# a_562_413# a_943_47# VNB abnmos
X3 a_725_21# a_562_413# a_943_47# VNB abnmos
X4 Q a_725_21# VGND VNB abnmos
X5 Q a_725_21# VGND VNB abnmos
X6 a_466_369# a_300_47# VPWR VPB abpmos
X7 a_466_369# a_300_47# VPWR VPB abpmos
X8 a_466_369# a_27_47# a_562_413# VPB abpmos
X9 a_725_21# RESET_B VPWR VPB abpmos
X10 a_725_21# RESET_B VPWR VPB abpmos
X11 a_725_21# RESET_B VPWR VPB abpmos
X12 Q a_725_21# VPWR VPB abpmos
X13 Q a_725_21# VPWR VPB abpmos
X14 Q a_725_21# VPWR VPB abpmos
X15 a_300_47# D VPWR VPB abpmos
X16 a_300_47# D VPWR VPB abpmos
X17 a_943_47# RESET_B VGND VNB abnmos
X18 a_943_47# RESET_B VGND VNB abnmos
X19 Q a_725_21# VGND VNB abnmos
X20 Q a_725_21# VGND VNB abnmos
X21 Q a_725_21# VGND VNB abnmos
X22 Q a_725_21# VGND VNB abnmos
X23 a_466_47# a_300_47# VGND VNB abnmos
X24 Q a_725_21# VPWR VPB abpmos
X25 Q a_725_21# VPWR VPB abpmos
X26 Q a_725_21# VPWR VPB abpmos
X27 a_466_47# a_193_47# a_562_413# VNB abnmos
X28 a_300_47# D VGND VNB abnmos
X29 a_562_413# a_27_47# a_660_47# VNB abnmos
X30 a_193_47# a_27_47# VGND VNB abnmos
X31 a_27_47# GATE VGND VNB abnmos
X32 Q a_725_21# VPWR VPB abpmos
X33 Q a_725_21# VPWR VPB abpmos
X34 Q a_725_21# VPWR VPB abpmos
X35 a_27_47# GATE VPWR VPB abpmos
X36 a_27_47# GATE VPWR VPB abpmos
X37 Q a_725_21# VGND VNB abnmos
X38 Q a_725_21# VGND VNB abnmos
X39 a_193_47# a_27_47# VPWR VPB abpmos
X40 a_193_47# a_27_47# VPWR VPB abpmos
X41 a_725_21# a_562_413# VPWR VPB abpmos
X42 a_725_21# a_562_413# VPWR VPB abpmos
X43 a_725_21# a_562_413# VPWR VPB abpmos
X44 a_660_47# a_725_21# VGND VNB abnmos
X45 Q a_725_21# VPWR VPB abpmos
X46 Q a_725_21# VPWR VPB abpmos
X47 Q a_725_21# VPWR VPB abpmos
.ends DLRTPD4B
